US04578393
A mixture of 3-methoxyphenylacetonitrile (25 g) and polyphosphoric acid (110 g) was heated and stirred at 90°-110° C. for 45 mins. 4-Chlorobenzaldehyde (12 g) was added in portions over 25 mins., with vigorous stirring. The mixture was heated at 120°-130° C. for 3 h, cooled and poured into a mixture of 0.88 ammonium hydroxide (2.5 liters) and 10% sodium hydroxide (200 ml), and left overnight. The precipitate was filtered off, washed with water, dissolved in chloroform (150 ml) and chromatographed on silica gel (500 g) using 1:1 ethyl acetate-pentane as the eluent. Recovery of the first band to be eluted, followed by recrystallisation from chloroform-pentane, afforded 1-(4-chlorophenyl)-8-methoxy-1,4-dihydroisoquinol-3-one (DESCRIPTION 17), 1.2 g, m.p. 250°-251° C.

reactant | 3-methoxyphenylacetonitrile | 25 g | COC=1C=C(C=CC1)CC#N | C9H9NO
reactant | 4-Chlorobenzaldehyde | 12 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | ammonium hydroxide | 2.5 liters | [OH-].[NH4+]
solvent | sodium hydroxide | 200 ml | [OH-].[Na+]
product | 1-(4-chlorophenyl)-8-methoxy-1,4-dihydroisoquinol-3-one | ClC1=CC=C(C=C1)C1NC(CC2=CC=CC(=C12)OC)=O | C16H14ClNO2
